US09238647B2
Step. E: 7-(4-Fluorophenyl)-2-isopropyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]-1,3-benzoxazole-5-carboxamide
To a solution of 7-(4-fluorophenyl)-2-isopropyl-1,3-benzoxazole-5-carboxylic acid with three equivalents of sodium chloride (8.5 mg, 16.0 μmol), R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride (3.35 mg, 17.0 μmol) and N-methylmorpholine (8.8 μL, 0.08 mmol) in N,N-dimethylformamide (0.16 mL) were added N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride (5.35 mg, 28.0 μmol), 1-hydroxy-7-azabenzotriazole (1.09 mg, 8.0 μmol). The mixture was stirred at 50° C. for 18 h. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.05% ammonium hydroxide) gave the title compound (2 mg). HRMS [M+1] found=409.1662. 1H NMR (500 MHz, DMSO-d6): δ 9.23 (1H, m), 8.16 (3H, m), 7.99 (1H, s), 7.37 (2H, m), 5.44, 1H, m), 3.90 (3H, s), 3.44 (1H, m), 2.34 (3H, s), 1.65 (3H, d, J=7.11 Hz), 1.37 (6H, d, J=6.75 Hz).

reactant | 7-(4-fluorophenyl)-2-isopropyl-1,3-benzoxazole-5-carboxylic acid | FC1=CC=C(C=C1)C1=CC(=CC=2N=C(OC21)C(C)C)C(=O)O | C17H14FNO3
reactant | sodium chloride | 16.0 μmol, 8.5 mg, three equivalents | [Cl-].[Na+]
reactant | 1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride | 17.0 μmol, 3.35 mg | Cl.CC1=NOC(=N1)C(C)N
reactant | N-methylmorpholine | 0.08 mmol, 8.8 μL | CN1CCOCC1 | C5H11NO
reactant | N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride | 28.0 μmol, 5.35 mg | Cl.CN(CCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 8.0 μmol, 1.09 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | N,N-dimethylformamide | 0.16 mL | CN(C=O)C | C3H7NO
product | 7-(4-Fluorophenyl)-2-isopropyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]-1,3-benzoxazole-5-carboxamide | 2 mg | FC1=CC=C(C=C1)C1=CC(=CC=2N=C(OC21)C(C)C)C(=O)N[C@H](C)C2=NC(=NO2)C | C22H21FN4O3
